US04479000
Benzyl N-(2-methoxy-4-nitrophenyl)carbamate
2-Methoxy-4-nitroaniline, 51 g (0.3 mol), was dissolved in 135 ml of acetone containing 12 g of MgO, and 65 ml of commercial benzylchloroformate was slowly added to the stirred mixture. After 4 hours the flask was warmed to redissolve the precipitate and the mixture was stirred overnight. DMF (100 ml) was added, and the mixture was heated to dissolve all of the product before being filtered through celite. After dilution with 250 ml of ethanol the hot solution was further diluted with water until almost cloudy, and allowed to cool. The pale yellow crystals were collected, washed well with 50% aqueous ethanol, and dried. Yield 86.0 g, 94%, m.p. 130°-131° C.

reactant | 2-Methoxy-4-nitroaniline | COC1=C(N)C=CC(=C1)[N+](=O)[O-] | C7H8N2O3
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
reactant | benzylchloroformate | 65 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | acetone | 135 ml, 12 g | CC(=O)C | C3H6O
product | Benzyl N-(2-methoxy-4-nitrophenyl)carbamate | COC1=C(C=CC(=C1)[N+](=O)[O-])NC(OCC1=CC=CC=C1)=O | C15H14N2O5
